US04775675
2-(3,4-Dimethoxy-2-carboxyphenyl)-5,5-dimethylthiazolidine-4(S)-carboxylic acid
2.1 g (10 mmoles) of opianic acid are dissolved in 30 ml of hot water and the solution is cooled to about 60° C. After adding 1.5 g (10 mmoles) of D-penicillamine, an oily product separates from the opalescent solution which becomes crystalline after standing overnight. The title acid is obtained in a yield of 2.75 g (80.5%) and can be recrystallized from methanol by adding water, m.p.: 90°-91° C., [α]D20 =+326° (c=0.772, methanol).

reactant | opianic acid | 10 mmoles, 2.1 g | COC1=C(C(=C(C=C1)C=O)C(=O)O)OC | C10H10O5
reactant | D-penicillamine | 10 mmoles, 1.5 g | N[C@H](C(C)(C)S)C(=O)O | C5H11NO2S
solvent | water | 30 ml | O | H2O
product | 2-(3,4-Dimethoxy-2-carboxyphenyl)-5,5-dimethylthiazolidine-4(S)-carboxylic acid | COC=1C(=C(C=CC1OC)C1SC([C@@H](N1)C(=O)O)(C)C)C(=O)O | C15H19NO6S
